US04263037
(b) 2,3-Dihydro-3,3-dimethylbenzofuran-5-carboxaldehyde
Phosphorus oxychloride (30.6 g, 0.2 mole) was added dropwise to a mixture of dimethyl formamide (14.6 g, 0.2 mole) and 2,3-dihydro-3,3-dimethyl benzofuran (14.8 g, 0.1 mole) over half an hour. The temperature rose to 55° C. during addition. The temperature was then raised to 100° C. and maintained for 1 hour prior to addition to a hot solution of sodium acetate (75 g) in water (75 ml). After cooling, the organic layer was separated, dried and distilled yielding 5.6 g unchanged starting material bp 35°-40° C. at 0.1 mm and 5.2 g aldehyde bp 85° C. at 0.1 mm. The product contained a little 2,2-dimethyl isomer from the previous stage.

reactant | Phosphorus oxychloride | 0.2 mole, 30.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethyl formamide | 0.2 mole, 14.6 g | CN(C=O)C | C3H7NO
reactant | 2,3-dihydro-3,3-dimethyl benzofuran | 0.1 mole, 14.8 g | CC1(COC2=C1C=CC=C2)C | C10H12O
reactant | sodium acetate | 75 g | C(C)(=O)[O-].[Na+]
solvent | water | 75 ml | O | H2O
product | 2,3-Dihydro-3,3-dimethylbenzofuran-5-carboxaldehyde | CC1(COC2=C1C=C(C=C2)C=O)C | C11H12O2
